US07138417B2
50.00 mg of ethyl 3-{3-benzyloxy-2-[2-(6-methylpyridin-2-ylamino)ethoxycarbonylamino]propanoylamino}-3-(3,5-dichlorophenyl)propionate are reacted with 2 ml of ethanol and 0.50 ml of 1 molar sodium hydroxide solution for 2 hours with stirring, acidified using 0.5 ml of glacial acetic acid and evaporated to dryness, giving 3-{3-benzyloxy-2-[2-(6-methylpyridin-2-ylamino)ethoxycarbonylamino]propanoylamino}-3-(3,5-dichlorophenyl)propionic acid.

reactant | ethyl 3-{3-benzyloxy-2-[2-(6-methylpyridin-2-ylamino)ethoxycarbonylamino]propanoylamino}-3-(3,5-dichlorophenyl)propionate | 50.00 mg | C(C1=CC=CC=C1)OCC(C(=O)NC(CC(=O)OCC)C1=CC(=CC(=C1)Cl)Cl)NC(=O)OCCNC1=NC(=CC=C1)C | C30H34Cl2N4O6
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1 molar, 0.50 ml | [OH-].[Na+]
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 3-{3-benzyloxy-2-[2-(6-methylpyridin-2-ylamino)ethoxycarbonylamino]propanoylamino}-3-(3,5-dichlorophenyl)propionic acid | C(C1=CC=CC=C1)OCC(C(=O)NC(CC(=O)O)C1=CC(=CC(=C1)Cl)Cl)NC(=O)OCCNC1=NC(=CC=C1)C | C28H30Cl2N4O6
